US06331545B1
To a 0° C. solution of 2-methyl-benzylamine (10 g) in 400 mL of THF was added di-t-butyl dicarbonate (18.9 g). The resulting solution was stirred at room temperature for 12 hours. Concentration in vacuo followed by crystallization with cold (−78° C.) hexanes provided 17.0 g of N-(t-butoxycarbonyl)-2-methyl-benzylamine. Mass spectrum [NH3/CI], [(M+H)+]=222.

reactant | 2-methyl-benzylamine | 10 g | CC1=C(CN)C=CC=C1 | C8H11N
reactant | di-t-butyl dicarbonate | 18.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | N-(t-butoxycarbonyl)-2-methyl-benzylamine | 17.0 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C | C13H19NO2
